US04304770
A mixture of 7-[2-methylthiomethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.95 g), conc.hydrochloric acid (0.324 g), methanol (9.5 ml) and tetrahydrofuran (2 ml) was stirred for 2 hours at ambient temperature. The solvent was distilled off under reduced pressure and the residue was dissolved in a saturated aqueous solution of sodium bicarbonate. The aqueous solution was washed with ethyl acetate (25 ml) and adjusted to pH 1.5 with 10% hydrochloric acid. Precipitates were collected by filtration, washed with water and dried to give 7-[2-methylthiomethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.78 g).

reactant | 7-[2-methylthiomethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.95 g | CSCON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C20H21N9O6S4
reactant | hydrochloric acid | 0.324 g | Cl | ClH
reactant | methanol | 9.5 ml | CO | CH4O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 7-[2-methylthiomethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.78 g | CSCON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)N | C19H21N9O5S4
